US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine (Compound 56)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 66%). 1H NMR (300 MHz, CDCl3): δ 2.43-2.49 (m, 3H), 3.10-3.15 (m, 4H), 3.81 (s, 3H), 3.08-4.12 (m, 4H), 7.00-7.12 (m, 3H), 7.24-7.40 (m, 3H), 7.49-7.65 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | 66% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl)C | C21H22ClN5O2
